US08629143B2
4-isopropylphthalazin-1(2H)-one
A solution of isopropylmagnesium bromide in THF (1M, 6.4 mL, 6.4 mmol) was added to a solution of 2-methylisoindoline-1,3-dione (0.793 g, 4.92 mmol) in THF (15 mL) at 0° C., stirred for 15 minutes, concentrated, dissolved in EtOH (12 mL) with a catalytic amount of concentrated HCl. Hydrazine hydrate (0.58 mL, 15 mmol) was added, and mixture was microwaved at 180° C. for 30 minutes, concentrated, and chromatographed on SiO2 (33% EtOAc/hexane) to give the title compound as a white solid (0.591 g, 3.14 mmol). 1H NMR (300 MHz, DMSO-d6) δ 12.47 (s, 1H), 8.28 (dd, 1H), 8.06 (d, 1H), 7.94 (ddd, 1H), 7.85 (ddd, 1H), 3.57 (quin, 1H), 1.27 (d, 6H); LC/MS (APCI) M/Z 189.1 (M+H)+.

reactant | isopropylmagnesium bromide | C(C)(C)[Mg]Br
reactant | 2-methylisoindoline-1,3-dione | 4.92 mmol, 0.793 g | CN1C(C2=CC=CC=C2C1=O)=O | C9H7NO2
reactant | Hydrazine hydrate | 15 mmol, 0.58 mL | O.NN
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 6.4 mmol, 1M, 6.4 mL | C1CCOC1 | C4H8O
product | 4-isopropylphthalazin-1(2H)-one | 3.14 mmol, 0.591 g | C(C)(C)C1=NNC(C2=CC=CC=C12)=O | C11H12N2O
